US09382254B2
Step (i): 3-(2-Fluoro-4-trifluoromethyl-phenylsulfanyl)-propionic acid 2-ethyl-hexyl ester
A solution of 1-bromo-2-fluoro-4-trifluoromethyl-benzene (5.0 g, 20.6 mmol) and DIEA (7.2 mL, 41.1 mmol) in toluene (100 mL) is degased under N2 atmosphere. To this mixture, Pd2 dba3 (753 mg, 0.82 mmol), Xantphos (952 mg, 1.65 mmol) and 3-mercapto-propionic acid 2-ethyl-hexyl ester (5.9 mL, 25.7 mmol) are added and the reaction is heated at reflux overnight. The resulting mixture is filtered over a plug of silica (EtOAc) and the organic is concentrated in vacuo. Purification by silica chromatography (EtOAc/petroleum ether; 3:97) affords the desired product.

reactant | 1-bromo-2-fluoro-4-trifluoromethyl-benzene | 20.6 mmol, 5.0 g | BrC1=C(C=C(C=C1)C(F)(F)F)F | C7H3BrF4
reactant | DIEA | 41.1 mmol, 7.2 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Xantphos | 1.65 mmol, 952 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | 3-mercapto-propionic acid 2-ethyl-hexyl ester | 25.7 mmol, 5.9 mL | C(C)C(COC(CCS)=O)CCCC | C11H22O2S
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2 dba3 | 0.82 mmol, 753 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-(2-Fluoro-4-trifluoromethyl-phenylsulfanyl)-propionic acid 2-ethyl-hexyl ester | C(C)C(COC(CCSC1=C(C=C(C=C1)C(F)(F)F)F)=O)CCCC | C18H24F4O2S
